US04649146
A solution of ethyl 5-(2-bromoacetyl)-2-hydroxy-4-thiazolecarboxylate (2.94 g) and 2-amino-3-methylpyridine (3.24 g) in 1,2-dimethoxyethane (100 ml) was refluxed for 1.5 hours. The reaction mixture was evaporated in vacuo. To the residue was added a mixture of ethyl acetate and water, and the resulting mixture was acidified to pH 0.8 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 7.5 with 20% potassium carbonate and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was triturated and diethyl ether and recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 2-(4-ethoxycarbonyl-2-hydroxy-5-thiazolyl)-8-methylimidazo[1,2-a]pyridine (1.76 g). mp 240°-242° C. (dec.)

reactant | ethyl 5-(2-bromoacetyl)-2-hydroxy-4-thiazolecarboxylate | 2.94 g | BrCC(=O)C1=C(N=C(S1)O)C(=O)OCC | C8H8BrNO4S
reactant | 2-amino-3-methylpyridine | 3.24 g | NC1=NC=CC=C1C | C6H8N2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 2-(4-ethoxycarbonyl-2-hydroxy-5-thiazolyl)-8-methylimidazo[1,2-a]pyridine | 1.76 g | C(C)OC(=O)C=1N=C(SC1C=1N=C2N(C=CC=C2C)C1)O | C14H13N3O3S
